*
.SUBCKT 1PS76SB21 1 2
* The Resistor R1 does not reflect
* a physical device.  Instead it
* improves modeling in the
* reverse mode of operation.
R1 1 2 5.9E+06
D1 1 2 D1PS76SB21
.MODEL D1PS76SB21 D
+(
+ IS = 1.009E-06
+ N = 1.017
+ BV = 44
+ IBV = 0.001611
+ RS = 0.6578
+ CJO = 3.76E-11
+ VJ = 0.274
+ M = 0.4381
+ FC = 0.5
+ TT = 0
+ EG = 0.69
+ XTI = 2
+)
.ENDS
*